US05117062
1,1'-(1,4-Phenylene)bis[2-phenylethanone]
Chromatographed (E),(E)-1,1'-[1,4-phenylene]bis[2-phenyl-1-(diphenylamino)ethylene](1.0 g, 0.0016 mol) was refluxed in a solution of THF (30 mL) and aqueous HCl (1.2 M, 3.0 mL) for 1.25 h. The solution was worked-up as for the preparation of 1,2-diphenylethanone. Chromatography on silica (30 g) eluting with petroleum ether/benzene 3:2 removed the diketone. After solvent evaporation of the combined fractions and recrystallization of the residue from benzene/methanol gave small plates mp 171°-3° C. (85%). FTIR (CDCl3)ν: 3089, 3066, 3033, 2900, 1592(C=O), 1676, 1568, 1492, 1454, 1404, 1325, 1309, 1272, 1217, 1202 cm-1. 1H NMR (200 MHz, CDCl3)δ4.30(s, 4H, --CH2Ph), 7.24-7.37(m, 10 H, ending phenyls), 8.06(s,4 H, phenylene).MS [m/e(70eV,% of base peak)]C22H18O2 314(M+·, 0.8), 223(M+ · --PhCH2·, 100), 104(C6H4CO+, 42.9), 91(C7H7+, 29).

reactant | HCl | 1.2 M, 3.0 mL | Cl | ClH
reactant | 1,2-diphenylethanone | C1(=CC=CC=C1)C(CC1=CC=CC=C1)=O | C14H12O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1,1'-(1,4-Phenylene)bis[2-phenylethanone] | C1(=CC=C(C=C1)C(CC1=CC=CC=C1)=O)C(CC1=CC=CC=C1)=O | C22H18O2
